US07074777B2
Synthesis of 17-acetylthiomethyl-1α,3β-bis(tert-butyldimethylsilyloxy)androsta-5,7,16-triene
To a solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene (100 mg, 0.183 mmol), triphenylphosphine (96.0 mg, 0.366 mmol) and imidazole (49.8 mg, 0.732 mmol) in dichloromethane (2 ml), was added N-bromosuccinimide (65.1 mg, 0.366 mmol) at 0° C., followed by stirring at room temperature. After 1 hour, hexane was added to the mixture and washed with water and then saturated brine. The organic layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent, giving a mixture (150 mg) containing 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(bromomethyl)androsta-5,7,16-triene. The mixture was dissolved in acetone (1.5 ml), to which potassium thioacetate (31.4 mg, 0.275 mmol) was added, followed by stirring for 30 min. The reaction mixture was diluted with hexane, filtered and the resulting filtrate was evaporated under reduced pressure to remove the solvent. The residue was purified by preparative thin layer chromatography (2 sheets (each 0.5 mm thickness), hexane:ethyl acetate=20:1, developed once) to give the titled compound (70.2 mg, 64%) as a colorless oil.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(bromomethyl)androsta-5,7,16-triene | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CBr)O[Si](C)(C)C(C)(C)C | C32H55BrO2Si2
reactant | potassium thioacetate | 0.275 mmol, 31.4 mg | C(C)(=S)[O-].[K+]
solvent | acetone | 1.5 ml | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
product | 17-acetylthiomethyl-1α,3β-bis(tert-butyldimethylsilyloxy)androsta-5,7,16-triene | 70.2 mg, 64% | C(C)(=O)SCC=1[C@]2(C)[C@@H](CC1)C1=CC=C3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C34H58O3SSi2
